US04882340
Thionyl chloride (0.65 ml) is added to a mixture of 7-hydroxymethyl-2-phenylbenzofuran (1.0 g), pyridine (0.38 ml) and methylene chloride (8 ml) under ice-cooling, and the mixture is stirred at room temperature for 30 minutes. The mixture is concentrated under reduced pressure to remove solvent, and the residue is dissolved in ethyl acetate. The solution is washed with water, dried and concentrated under reduced pressure to remove solvent. The residue is recrystallized from n-hexane, whereby 7-chloromethyl-2-phenylbenzofuran (0.9 g) is obtained. Yield: 83%.

reactant | Thionyl chloride | 0.65 ml | S(=O)(Cl)Cl | Cl2OS
reactant | 7-hydroxymethyl-2-phenylbenzofuran | 1.0 g | OCC1=CC=CC=2C=C(OC21)C2=CC=CC=C2 | C15H12O2
reactant | pyridine | 0.38 ml | N1=CC=CC=C1 | C5H5N
solvent | methylene chloride | 8 ml | C(Cl)Cl | CH2Cl2
product | 7-chloromethyl-2-phenylbenzofuran | 0.9 g, Yield: 83% | ClCC1=CC=CC=2C=C(OC21)C2=CC=CC=C2 | C15H11ClO
